US04409226
Add dropwise with stirring a solution of 3.5 ml acetyl chloride in 50 ml THF (tetrahydrofuran) to a cooled solution of 10 gm of 2-aminomethyl-3-phenylmethoxypyridine and 7.1 ml triethylamine in 125 ml THF. Warm to room temperature and stir an additional hour. Remove triethylamine hydrochloride by filtration and evaporate the filtrate under reduced pressure. Recrystallize the residue from toluene to obtain 2-acetamidomethyl-3-(phenylmethoxy)pyridine, mp 94°-96°.

reactant | acetyl chloride | 3.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-aminomethyl-3-phenylmethoxypyridine | 10 gm | NCC1=NC=CC=C1OCC1=CC=CC=C1 | C13H14N2O
reactant | triethylamine | 7.1 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 125 ml | O1CCCC1 | C4H8O
product | 2-acetamidomethyl-3-(phenylmethoxy)pyridine | C(C)(=O)NCC1=NC=CC=C1OCC1=CC=CC=C1 | C15H16N2O2
